US04036979
Preparation of 1-(methoxymethyl)-3-(4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-yl)urea
A mixture of 4,5,6,7-tetrahydro-7-hydroxybenzo[b]-thien-4-yl urea (4 g., 18.87 mmole), sodium hydroxide (0.969 g., 24.22 mmole), paraformaldehyde (1.038 g., 34.6 mmole) and methanol (94 ml.) is stirred and heated at reflux under a nitrogen atmosphere for 23 hours. The mixture is allowed to cool and excess solid carbon dioxide is added. Evaporation in vacuo affords a solid which is stirred with water (50 ml.) for 2 hours, filtered and air dried to furnish 3.16 g., of the title compound (65% yield) m.p. 157°-159° C. dec. Recrystallization from hot acetone gives the analytical specimen 160°-161° C. dec.

reactant | 4,5,6,7-tetrahydro-7-hydroxybenzo[b]-thien-4-yl urea | 18.87 mmole, 4 g | OC1CCC(C2=C1SC=C2)NC(=O)N | C9H12N2O2S
reactant | sodium hydroxide | 24.22 mmole, 0.969 g | [OH-].[Na+]
reactant | paraformaldehyde | 34.6 mmole, 1.038 g | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 50 ml | O | H2O
solvent | methanol | 94 ml | CO | CH4O
product | 1-(methoxymethyl)-3-(4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-yl)urea | 65% yield | COCNC(=O)NC1CCC(C=2SC=CC21)O | C11H16N2O3S
